US04686227
A solution of 7-chloro-2-methylimidazo[2,1-a]isoquinoline (4 g) in N,N-dimethylformamide (40 ml) was added dropwise to a mixture of N,N-dimethylformamide (5.7 ml) and phosphoryl chloride (1.86 ml) under ice cooling. After being stirred at 85°-90° C. for 6 hours, the mixture was poured into ice-water, basified with aqueous sodium hydroxide, heated at 80° C. for 20 minutes and cooled. The resulting precipitate was collected by filtration, washed with water and recrystallized from methanol to give 7-chloro-3-formyl-2methylimidazo[2,1-a]isoquinoline (0.356 g).

reactant | 7-chloro-2-methylimidazo[2,1-a]isoquinoline | 4 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3)C | C12H9ClN2
reactant | phosphoryl chloride | 1.86 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5.7 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-formyl-2methylimidazo[2,1-a]isoquinoline | 0.356 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3C=O)C | C13H9ClN2O
